US07507729B2
b) (3-Oxo-morpholin-4-yl)-acetic acid hydrazide
As described for example 112a, (3-oxo-morpholin-4-yl)-acetic acid ethyl ester in butanol was reacted with hydrazine hydrate at 100° C. for 6 h. Evaporation of all volatiles and chromatography (SiO2, dichloromethane:methanol:aq.ammonia (25%)=100:0:0 to 90:10:1) afforded the title compound as a white solid (yield: 56%). MS: m/e=174.4 [M+H]+.

reactant | (3-oxo-morpholin-4-yl)-acetic acid ethyl ester | C(C)OC(CN1C(COCC1)=O)=O | C8H13NO4
reactant | hydrazine hydrate | O.NN
solvent | butanol | C(CCC)O | C4H10O
product | (3-Oxo-morpholin-4-yl)-acetic acid hydrazide | yield: 56% | O=C1N(CCOC1)CC(=O)NN | C6H11N3O3
